US04868289
2-(Hexadecylsulfonyl)ethyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside. 2-Bromoethyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (Dahmen et al. Carbohydr. Res., 116 (1983)) (540 mg, 1.19 mmol), hexadecanethiol (383 mg, 1.49 mmol), cesium carbonate (292 mg, 0.89 mmol) and dimethylformamide (5 ml) was stirred overnight. Dichloromethane (75 ml) and water (40 ml) were added. The aqueous phase was extracted with dichloromethane (2×25 ml), the combined organic phases were dried (Na2SO4) and concentrated. Chromatography (SiO2 ; ethylacetate: hexane) gave pure 2-(hexadecylthio)ethyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (480 mg, 0.76 mmol, 64%), which was dissolved in ethyl acetate (12 ml) and treated with m-chloroperbenzoic acid (1.71 mmol). After 4 hours the solvents were removed and the residue was dissolved in dichloromethane and filtered through alumina (10 g) to give the pure sulfone lipid (495 mg, 98%). [α]D23 =-8.7° (c=0.9 in CDCl3).

reactant | 2-(Hexadecylsulfonyl)ethyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](OCCS(=O)(=O)CCCCCCCCCCCCCCCC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C32H56O12S
reactant | 2-Bromoethyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 1.19 mmol, 540 mg | C(C)(=O)O[C@H]1[C@H](OCCBr)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H23BrO10
reactant | hexadecanethiol | 1.49 mmol, 383 mg | C(CCCCCCCCCCCCCCC)S | C16H34S
reactant | cesium carbonate | 0.89 mmol, 292 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | hexane | CCCCCC | C6H14
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | water | 40 ml | O | H2O
solvent | Dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(hexadecylthio)ethyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 0.76 mmol, 480 mg, 64% | C(C)(=O)O[C@H]1[C@H](OCCSCCCCCCCCCCCCCCCC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C32H56O10S
